US06982348B2
To a solution of 3-(1,1,2,2-tetrafluoroethoxy)toluene (3.80 g, 18.2 mmol) in carbon tetrachloride (50 ml) were added N-bromosuccinimide (3.54 g, 19.9 mmol) and 2,2′-azobis(isobutyronitrile) (136 mg, 0.83 mmol), and the mixture was heated under reflux for 4 hrs. After cooling, the reaction solution was filtered, and the filtrate was concentrated to give ethyl 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene. To a solution of ethyl 3-(2-fluoropyridin-4-yl)-3-oxopropionate (3.5 g, 16.6 mmol) in 1,2-dimethoxyethane (35 ml) was added sodium hydride (60% in oil, 0.66 g, 16.6 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene prepared earlier in 1,2-dimethoxyethane (5 ml), and the mixture was stirred at room temperature for 1 hr. The reaction solution was poured into water (100 ml), and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene:hexane=1:1) to give ethyl 3-(2-fluoropyridin-4-yl)-3-oxo-2-((3-(1,1,2,2-tetrafluoroethoxy)phenyl)methyl)propionate (4.78 g, 69%) as a colorless oil.

reactant | 3-(1,1,2,2-tetrafluoroethoxy)toluene | 18.2 mmol, 3.80 g | FC(C(F)F)(OC=1C=C(C=CC1)C)F | C9H8F4O
reactant | N-bromosuccinimide | 19.9 mmol, 3.54 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 0.83 mmol, 136 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 3-(1,1,2,2-tetrafluoroethoxy)-α-bromotoluene | C(C)C1=C(C=CC=C1OC(C(F)F)(F)F)CBr | C11H11BrF4O
